US06221865B1
N-t-Butoxycarbonyl-2(S)-phenylsulfonyloxymethylpyrrolidine
A solution of N-t-Butoxycarbonyl-2(S)-hydroxymethylpyrrolidine (2.01 g, 10.00 mmol) and triethyl amine (1.70 mL, 12.00 mmol) in 10 mL of methylene chloride was cooled in an ice bath and treated with benzenesulfonylchloride (1.96 g, 11.00 mmol) and the mixture placed in a refridgerator overnight. The mixture was allowed to reach room temperaure and partioned between ethyl ether and water. The aqueous phase was extracted with ether and the combined organic layers washed with water 1N HCl, saturated sodium bicarbonate, brine, dried, filtered and concentrated. The residue was purified by column chromatography on silica gel (120 g, 25% ethyl acetate/hexanes) to provide 2.82 g (83%) of the title compound. MS (DCI, NH3): 359 (M+NH4)+.

reactant | N-t-Butoxycarbonyl-2(S)-hydroxymethylpyrrolidine | 10.00 mmol, 2.01 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
reactant | triethyl amine | 12.00 mmol, 1.70 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonylchloride | 11.00 mmol, 1.96 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-t-Butoxycarbonyl-2(S)-phenylsulfonyloxymethylpyrrolidine | 2.82 g, 83% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COS(=O)(=O)C1=CC=CC=C1 | C16H23NO5S
